US07560586B2
(R)-2-(3-{3-[[2,4-dimethoxybenzyl](2,2-diphenylethyl)amino]-1-methyl-propoxy}-phenyl)acetic acid hydrochloride salt
Following the procedure of Example 7(d) except (R)-2-(3-{3-[(2,2-diphenylethyl)amino]-1-methyl-propoxy}-phenyl)acetic acid and 2,4-dimethoxybenzaldehyde were used instead of (R)-2-(3-{3-(2,2-diphenylethyl)amino]-3-methyl-propoxy}-phenyl)acetic acid methyl ester and 2-chloro-3-trifluoromethylbenzaldehyde in step (d) the corresponding carboxylic acid was obtained. The crude product was purified by preparative HPLC (TMC CombiPrep PDS, 75×30 mm, 25 mL/min, acetonitrile: H2O, UV detection at 254 nm) to afford the free base. The free base was dissolved in Et2O (diethylether) and acidified with 1.0 M HCl/Et2O. The reaction mixture was concentrated in vacuo and dried under reduced pressure to give the title compound as a white solid, 73 mg (71%). MS (ESI) 554.6 (M+H+).

reactant | (R)-2-(3-{3-[(2,2-diphenylethyl)amino]-1-methyl-propoxy}-phenyl)acetic acid | C1(=CC=CC=C1)C(CNCC[C@H](OC=1C=C(C=CC1)CC(=O)O)C)C1=CC=CC=C1 | C26H29NO3
reactant | 2,4-dimethoxybenzaldehyde | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | acetic acid methyl ester | COC(C)=O | C3H6O2
reactant | 2-chloro-3-trifluoromethylbenzaldehyde | ClC1=C(C=O)C=CC=C1C(F)(F)F | C8H4ClF3O
reactant | HCl Et2O | 1.0 M | Cl.CCOCC
solvent | Et2O | CCOCC | C4H10O
product | (R)-2-(3-{3-[[2,4-dimethoxybenzyl](2,2-diphenylethyl)amino]-1-methyl-propoxy}-phenyl)acetic acid hydrochloride salt | Cl.COC1=C(CN(CC[C@H](OC=2C=C(C=CC2)CC(=O)O)C)CC(C2=CC=CC=C2)C2=CC=CC=C2)C=CC(=C1)OC | InChI=1S/C35H39NO5.ClH/c1-26(41-32-16-10-11-27(21-32)22-35(37)38)19-20-36(24-30-17-18-31(39-2)23-34(30)40-3)25-33(28-12-6-4-7-13-28)29-14-8-5-9-15-29;/h4-18,21,23,26,33H,19-20,22,24-25H2,1-3H3,(H,37,38);1H/t26-;/m1./s1
